US07183270B2
To a solution of [(3S)-1-(1S,2R,4R)-(4-azido-2-benzenesulfonylmethyl-cyclohexyl)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester (120 mg) in CH2Cl2 (10 mL) was added TFA (3.3 mL). After 45 min, the solution was diluted with NaHCO3 solution (aq) and EtOAc. The organic layer was collected, dried, and concentrated to afford to a crude oil 3-amino-(3S)-1-(1S,2R,4R)-(4-azido-2-benzenesulfonylmethyl-cyclohexyl)-azepan-2-one. MS [M+H]+=406.

reactant | [(3S)-1-(1S,2R,4R)-(4-azido-2-benzenesulfonylmethyl-cyclohexyl)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(N[C@@H]1C(N(CCCC1)[C@@H]1[C@@H](C[C@@H](CC1)N=[N+]=[N-])CS(=O)(=O)C1=CC=CC=C1)=O)=O | C24H35N5O5S
reactant | TFA | 3.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-amino-(3S)-1-(1S,2R,4R)-(4-azido-2-benzenesulfonylmethyl-cyclohexyl)-azepan-2-one | N[C@@H]1C(N(CCCC1)[C@@H]1[C@@H](C[C@@H](CC1)N=[N+]=[N-])CS(=O)(=O)C1=CC=CC=C1)=O | C19H27N5O3S
